US09403835B2
Step 1: 2-(2-formyl-phenoxy)-propionic acid methyl ester
A mixture of 2-hydroxy-benzaldehyde (1 g; 8.19 mmol; 1 eq.), K2CO3 (3.4 g; 24.6 mmol; 3 eq.) and 2-bromo-propionic acid methyl ester (3.42 g; 20.5 mmol; 2.5 eq.) in DMF (50 mL) was stirred at 120° C. for 45 minutes then diluted with EA. The solution was washed with water (3×) then brine, dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (15% to 33% EA in cyclohexane) afforded the title compound (1.56 g, 91%) as a colourless oil. HPLC (max plot) 96.3%; Rt 3.18 min.

reactant | 2-hydroxy-benzaldehyde | 8.19 mmol, 1 g, 1 eq. | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | K2CO3 | 24.6 mmol, 3.4 g, 3 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-propionic acid methyl ester | 20.5 mmol, 3.42 g, 2.5 eq. | COC(C(C)Br)=O | C4H7BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(2-formyl-phenoxy)-propionic acid methyl ester | 1.56 g, 91% | COC(C(C)OC1=C(C=CC=C1)C=O)=O | C11H12O4
